US08455477B2
To a mixture of bromoacetaldehyde dimethylacetal (4.50 ml, 37.1 mmol) in water (126 ml) was added a 1M solution of hydrochloric acid (8.40 ml, 8.40 mmol). After 2.5 h the reaction mixture was heated to 80° C. resulting in a clear solution. After 40 minutes the reaction mixture was cooled to ambient temperature and sodium bicarbonate (3.83 g, 45.6 mmol) and 4-iodo-6-methoxypyridin-2-amine (5.25 g, 21.0 mmol) were added. After 16 hours the reaction mixture was diluted with ethyl acetate, washed with water, then dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (methanol/dichloromethane gradient) to give 7-iodo-5-methoxyimidazo[1,2-a]pyridine. LRMS (ESI) calculated for C8H8IN2O [M+H]+, 275.0 found 274.9.

reactant | bromoacetaldehyde dimethylacetal | 37.1 mmol, 4.50 ml | COC(CBr)OC | C4H9BrO2
reactant | hydrochloric acid | 8.40 mmol, 8.40 ml | Cl | ClH
reactant | sodium bicarbonate | 45.6 mmol, 3.83 g | C([O-])(O)=O.[Na+]
reactant | 4-iodo-6-methoxypyridin-2-amine | 21.0 mmol, 5.25 g | IC1=CC(=NC(=C1)OC)N | C6H7IN2O
solvent | water | 126 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-iodo-5-methoxyimidazo[1,2-a]pyridine | IC1=CC=2N(C(=C1)OC)C=CN2 | C8H7IN2O
